US06214878B1
4-[(E)-2-(3-(1-Adamantyl)-4-methoxyethoxymethoxy-phenyl)ethenyl]benzoic acid
2.0 g (4.0 mmol) of ethyl 4-[(E)-2-(3-(1-adamantyl)-4-methoxyethoxymethoxyphenyl)ethenyl]benzoate and methanolic sodium hydroxide solution (1.6 g of sodium hydroxide in 50 ml of methanol) were introduced into a round-bottomed flask. The mixture was refluxed for four hours and evaporated to dryness, and the residue was taken up in water and acidified to pH 1. The aqueous phase was extracted with ethyl acetate and the organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was triturated from the minimum amount of ethyl ether, filtered and dried. 1.4 g (74%) of the expected acid, with a melting point of 207-208° C., was collected.

reactant | ethyl 4-[(E)-2-(3-(1-adamantyl)-4-methoxyethoxymethoxyphenyl)ethenyl]benzoate | 4.0 mmol, 2.0 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCOCCOC)/C=C/C2=CC=C(C(=O)OCC)C=C2 | C31H38O5
solvent | sodium hydroxide | 50 ml, 1.6 g | [OH-].[Na+]
product | 4-[(E)-2-(3-(1-Adamantyl)-4-methoxyethoxymethoxy-phenyl)ethenyl]benzoic acid | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCOCCOC)/C=C/C2=CC=C(C(=O)O)C=C2 | C29H34O5
